US08022205B2
4-[4-(3-Hydroxy-phenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-benzenesulfonamide (A-51)
In the same manner as Example 1-A-01, from 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine and 4-aminobenzene sulfonamide, 4-(3-methoxy-phenyl)-7-(4-aminosulfonylphenyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine was obtained, and subsequently, further in the same manner as Example 1-A-09, the desired compound was obtained.

reactant | 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine | ClC1=NC(=NC(=C1CCCl)C1=CC(=CC=C1)OC)N1CCOCC1 | C17H19Cl2N3O2
reactant | 4-aminobenzene sulfonamide | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
reactant | 4-(3-methoxy-phenyl)-7-(4-aminosulfonylphenyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | COC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=C(C=C2)S(=O)(=O)N | C23H25N5O4S
product | 4-[4-(3-Hydroxy-phenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-benzenesulfonamide | OC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=C(C=C2)S(=O)(=O)N | C22H23N5O4S
